US04775677
[2-[(3,4-dichlorophenyl)imino]-3-methyl-4-oxo-5-thiazolidinylidene]acetic acid
Prepared by the method described in Example 1 from N-methyl-N'-(3,4-dichlorophenyl)thiourea (4.9 g, 21 mmoles) and acetylenedicarboxylic acid (2.6 g, 22 mmoles). Recrystallization from ethyl acetate gave the product (4.5 g), mp 225°-226° C.

reactant | N-methyl-N'-(3,4-dichlorophenyl)thiourea | 21 mmoles, 4.9 g | CNC(=S)NC1=CC(=C(C=C1)Cl)Cl | C8H8Cl2N2S
reactant | acetylenedicarboxylic acid | 22 mmoles, 2.6 g | C(#CC(=O)O)C(=O)O | C4H2O4
product | [2-[(3,4-dichlorophenyl)imino]-3-methyl-4-oxo-5-thiazolidinylidene]acetic acid | 4.5 g | ClC=1C=C(C=CC1Cl)N=C1SC(C(N1C)=O)=CC(=O)O | C12H8Cl2N2O3S
